US09303040B2
m-CPBA (77%, 67 mg, 0.30 mmol) was added to a solution of (R)-2-amino-3-(4-chlorophenyl)-1-(4-(5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one (120 mg, 0.30 mmol) in DCM (10 mL) and MeOH (1 mL). The mixture was stirred at room temperature for 2 hours. The solvent was removed, and the residue was subject to column chromatography, eluted by DCM/MeOH (4:1-1:1) to afford (R)-2-amino-3-(4-chlorophenyl)-1-(4-(6-oxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one (21 mg, 17%) as the free amine. LCMS: 420.2 [M+H+] (APCI+).

reactant | m-CPBA | 0.30 mmol, 67 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | (R)-2-amino-3-(4-chlorophenyl)-1-(4-(5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one | 0.30 mmol, 120 mg | N[C@@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CSC2)CC2=CC=C(C=C2)Cl | C19H22ClN5OS
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 mL | CO | CH4O
product | (R)-2-amino-3-(4-chlorophenyl)-1-(4-(6-oxido-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one | 21 mg, 17% | N[C@@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CS(C2)=O)CC2=CC=C(C=C2)Cl | C19H22ClN5O2S
